US08541411B2
d) 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol
To a solution of 4-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole in THF (50 mL) was added TBAF (0.64 mL, 1 mol/L) at room temperature and the mixture was stirred for 1 h. TLC showed consumption of starting material. The solvent was removed in-vacuo and the residue was purified by silica gel chromatography eluted with MeOH:DCM=1:60 to afford the desired product as a white solid (150 mg, 94%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.36 (s, 3H), 2.94 (t, 4H, J=4.8 Hz), 3.65 (t, 4H, J=4.8 Hz), 5.87 (s, 2H), 6.30 (d, 1H, J=1.8 Hz), 6.35 (d, 1H, J=1.8 Hz), 6.39 (d, 1H, J=7.5 Hz), 7.35 (t, 1H, J=7.5 Hz), 7.60-7.71 (m, 2H), 7.86 (d, 1H, J=8.4 Hz), 8.01 (d, 1H, J=7.5 Hz), 8.23 (d, 1H, J=8.4 Hz); LC-MS: m/e=374[M+1]+

reactant | 4-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole | CC(C)(C)[Si](OC1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H41N3O2Si
reactant | TBAF | 1 mol/L, 0.64 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol | 150 mg, 94% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2O)N2CCOCC2 | C23H23N3O2
